US06350749B1
To a solution of 5-(2-chlorophenyl)cyclohexane-1,3-dione (1.0 g), 4-dimethylaminopyridine (0.82 g) and methoxyacetic acid (0.73 g) in dimethylformamide (40 ml) was added dicyclohexylcarbodiimide (1.0 g), and the mixture was stirred at room temperature for 3 days. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate. Insoluble materials were filtered off, and the organic layer was extracted with 1N sodium hydroxide solution. To the aqueous layer was added 1N hydrochloric acid to make the solution acidic, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 5-(2-chlorophenyl)-2-(1-hydroxy-2-methoxyethylidene)cyclohexane-1,3-dione (0.86 g) as oil.

reactant | 5-(2-chlorophenyl)cyclohexane-1,3-dione | 1.0 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
reactant | methoxyacetic acid | 0.73 g | COCC(=O)O | C3H6O3
reactant | dicyclohexylcarbodiimide | 1.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.82 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-(2-chlorophenyl)-2-(1-hydroxy-2-methoxyethylidene)cyclohexane-1,3-dione | 0.86 g | ClC1=C(C=CC=C1)C1CC(C(C(C1)=O)=C(COC)O)=O | C15H15ClO4
